US07557118B2
1-(α-Iodoacetoxy)-2-[(4-isopropoxy-3-methoxy-phenyl)ethynyl]-5-isopropoxy-4-methoxybenzene:
DCC (1.60 g, 7.75 mmol) was added to a solution of 2-iodoacetic acid (1.44 g, 7.74 mmol), 2-[(4-isopropoxy-3-methoxy-phenyl)ethynyl]-5-isopropoxy-4-methoxyphenol (2.6 g, 7.03 mmol)and DMAP (43 mg, 0.35 mmol) in CH2Cl2 (30 mL) and the solution thereby obtained was stirred at 18° C. for 3 h. The resulting suspension was filtered (CH2Cl2 rinse) and the filtrate concentrated under reduced pressure. The residue was suspended in ether (30 mL) at 0° C. with rapid stirring then filtered [rinsing with Et2O (20 mL) pre-cooled at 0° C.] giving the title compound (3.67 g, 97%) as a cream solid mp 127-8° C. IR (KBr disc, cm−1) 2969, 2930, 2833, 1755, 1611, 1575, 1516, 1467, 1416, 1402, 1385, 1365, 1320, 1252, 1236, 1212, 1135, 1108. 1H NMR (300 MHz, CDCl3) δ 7.08 (dd, J=1.8, 8.4 Hz, 1H), 7.04 (d, J=2.1 Hz, 1H), 7.01 (s, 1H), 6.82 (d, J=8.4 Hz, 1H), 6.65 (s, 1H), 4.53 (septet, J=6.0 Hz, 2 Hz), 3.95 (s, 2H), 3.85 (s, 6H), 1.38 (d, J=6.0 Hz, 6H), 1.37 (d, J=6.0 Hz, 6H). 13C NMR+APT (75.5 MHz, CDCl3) δ 167.3 (C), 150.0 (C), 148.4 (C), 148.3 (C), 148.2 (C), 145.1 (C), 125.2 (CH), 115.6 (C), 115.3 (CH), 115.2 (CH), 115.0 (CH), 108.8 (CH), 93.6 (C), 82.7 (C), 72.0 (CH), 71.6 (CH), 56.5 (CH3), 56.3 (CH3), 22.3 (CH3), 22.0 (CH3), −6.2 (CH2). MS (70 eV) m/z (%): 538 (80, M+·), 496 (10, M+·-CH2CHCH3), 370 (10, M+·-CH2ICO), 328 (34), 286 (100); HRMS calcd for C24H27O6I 538.0852. Found 538.0854.

reactant | DCC | 7.75 mmol, 1.60 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 2-iodoacetic acid | 7.74 mmol, 1.44 g | ICC(=O)O | C2H3IO2
reactant | 2-[(4-isopropoxy-3-methoxy-phenyl)ethynyl]-5-isopropoxy-4-methoxyphenol | 7.03 mmol, 2.6 g | C(C)(C)OC1=C(C=C(C=C1)C#CC1=C(C=C(C(=C1)OC)OC(C)C)O)OC | C22H26O5
catalyst | DMAP | 0.35 mmol, 43 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(α-Iodoacetoxy)-2-[(4-isopropoxy-3-methoxy-phenyl)ethynyl]-5-isopropoxy-4-methoxybenzene | 3.67 g, 97% | ICC(=O)OC1=C(C=C(C(=C1)OC(C)C)OC)C#CC1=CC(=C(C=C1)OC(C)C)OC | C24H27IO6
